US08222414B2
2,2-Dimethyl-propionic acid {(R)-2-[5-(1,2,4-triazol-1-yl)methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}methyl ester
2,2-Dimethyl-propionic acid [(R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]methyl ester prepared in Preparation 41 and 1,2,4-triazole were reacted according to the same procedure as Preparation 92 except that DMF was used as the solvent instead of DMSO to give the title compound.

reactant | 2,2-Dimethyl-propionic acid [(R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]methyl ester | ClCC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC[C@H](N1)COC(C(C)(C)C)=O | C18H20ClN3O4S
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 2,2-Dimethyl-propionic acid {(R)-2-[5-(1,2,4-triazol-1-yl)methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}methyl ester | N1(N=CN=C1)CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC[C@H](N1)COC(C(C)(C)C)=O | C20H22N6O4S
